US05866567
(3aR*,10aS*)-9-[3-(Benzyloxycarbonylamino)benzyl]-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
To a solution of (3aR*,10aS*)-9-[3-(benzyloxycarbonylamino)benzyl]-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one (1.9 g, 4.3 mmol) in 1,2-dichloroethane (50 mL) was added phthalimidoacetyl chloride (1.1 g, 4.7 mmol) at room temperature and the mixture was refluxed for 17 hours. After cooling, saturated aqueous NaHCO3 solution (30 mL) was added and the mixture was diluted with water and extracted with 2 portions of chloroform. The pooled organic layer was washed with saturated aqueous NaCl solution, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was crystallized from diethyl ether to provide 1.5 g (yield 55%) of the title compound. m.p. 224°-225° C.

reactant | (3aR*,10aS*)-9-[3-(benzyloxycarbonylamino)benzyl]-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 4.3 mmol, 1.9 g | C(C1=CC=CC=C1)OC(=O)NC=1C=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=CC1 | C27H27N3O3
reactant | phthalimidoacetyl chloride | 4.7 mmol, 1.1 g | C1(C=2C(C(N1CC(=O)Cl)=O)=CC=CC2)=O | C10H6ClNO3
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | (3aR*,10aS*)-9-[3-(Benzyloxycarbonylamino)benzyl]-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 1.5 g, yield 55% | C(C1=CC=CC=C1)OC(=O)NC=1C=C(CN2C3=C(N([C@H]4[C@@H](C2=O)CCC4)C(CN4C(C=2C(C4=O)=CC=CC2)=O)=O)C=CC=C3)C=CC1 | C37H32N4O6
